US04695573
9-Benzylamino-6-methyl-1,2,3,4-tetrahydroacridin-1-ol
To a cooled suspension of 3.6 g of 9-benzylamino-3,4-dihydro-6-methylacridin-1(2H)-one in 80 ml of tetrahydrofuran was added 6 ml of 1M solution of lithium aluminum hydride in THF. This was stirred for 1 hour, and thereafter quenched with 7 ml of saturated ammonium chloride solution. The inorganics were filtered and rinsed with ethyl acetate and the combined organics were dried over anhydrous magnesium sulfate. The resulting solid was triturated with ethyl ether to obtain 3.15 g of a solid, mp 148°-153° C. This was recrystallized from toluene (70 ml) to obtain 2.5 g of an analytically pure solid, mp 149°-152° C.

reactant | 9-benzylamino-3,4-dihydro-6-methylacridin-1(2H)-one | 3.6 g | C(C1=CC=CC=C1)NC=1C2=CC=C(C=C2N=C2CCCC(C12)=O)C | C21H20N2O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 9-Benzylamino-6-methyl-1,2,3,4-tetrahydroacridin-1-ol | 3.15 g | C(C1=CC=CC=C1)NC=1C2=CC=C(C=C2N=C2CCCC(C12)O)C | C21H22N2O
